US07754744B2
Step 2: Piperidin-4-yl-(5-trifluoromethyl-pyridin-2-yl)-amine dihydrochloride
A solution of 4-(5-trifluoromethyl-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.69 g, 2.00 mmol) in ethanol (40 mL) and 4 M HCl in dioxane (40 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 246.1 [M+H]+.

reactant | 4-(5-trifluoromethyl-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.00 mmol, 0.69 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)C(F)(F)F | C16H22F3N3O2
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-(5-trifluoromethyl-pyridin-2-yl)-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC=C(C=C1)C(F)(F)F | InChI=1S/C11H14F3N3.2ClH/c12-11(13,14)8-1-2-10(16-7-8)17-9-3-5-15-6-4-9;;/h1-2,7,9,15H,3-6H2,(H,16,17);2*1H
